US07696195B2
(R)-1-(2-cyclopropyl-7-methyl-1H-benzimidazol-5-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate
A solution of 120 mg (0.16 mmol) (R)-1-(3,4-diamino-5-methyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate in 1 mL DMF was combined with 20 μL (0.27 mmol) cyclopropanecarbaldehyde and stirred for 2 days at RT. The residue was purified by HPLC, the fractions containing the product were combined and lyophilised.

reactant | (R)-1-(3,4-diamino-5-methyl-benzyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | 0.16 mmol, 120 mg | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC(=C(C(=C1)C)N)N)C=CC=C2 | C35H50N8O4
reactant | cyclopropanecarbaldehyde | 0.27 mmol, 20 μL | C1(CC1)C=O | C4H6O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R)-1-(2-cyclopropyl-7-methyl-1H-benzimidazol-5-ylmethyl)-2-[4-(4-methyl-piperazin-1-yl)-piperidin-1-yl]-2-oxo-ethyl 4-(2-oxo-1,2,4,5-tetrahydro-1,3-benzodiazepin-3-yl)-piperidine-1-carboxylate | O=C1NC2=C(CCN1C1CCN(CC1)C(=O)O[C@@H](C(=O)N1CCC(CC1)N1CCN(CC1)C)CC1=CC3=C(NC(=N3)C3CC3)C(=C1)C)C=CC=C2 | C39H52N8O4
